US07432392B2
To a solution of diethyl 2-hydroxymethyl-2-phenylmalonate (179 mg) and N,N-dimethylaniline (122 mg) in chloroform was added triphosgene (80 mg) under ice-cooling, and the mixture was stirred at room temperature, and after 3 hours, added dropwise to a solution of 4′-trifluoromethylbiphenyl-2-carboxylic acid (2-dimethylcarbamoyl-5-fluoro-4-hydroxyphenyl)amide (200 mg) and triethylamine (68 mg) in THF under ice-cooling. The mixture was stirred at room temperature for 2 hours, and then diluted with ethyl acetate. The extract was washed successively with saturated aqueous sodium bicarbonate and saturated brine, dried over sodium sulfate, and concentrated. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:1) to give 2-{5-dimethylcarbamoyl-2-fluoro-4-[(4′-trifluoromethylbiphenyl-2-carbonyl)amino]phenoxycarbonyloxymethyl}-2-phenylmalonic acid diethyl ester (88 mg).

reactant | diethyl 2-hydroxymethyl-2-phenylmalonate | 179 mg | OCC(C(=O)OCC)(C(=O)OCC)C1=CC=CC=C1 | C14H18O5
reactant | N,N-dimethylaniline | 122 mg | CN(C1=CC=CC=C1)C | C8H11N
reactant | triphosgene | 80 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4′-trifluoromethylbiphenyl-2-carboxylic acid (2-dimethylcarbamoyl-5-fluoro-4-hydroxyphenyl)amide | 200 mg | CN(C(=O)C1=C(C=C(C(=C1)O)F)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C23H18F4N2O3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 68 mg | C(C)N(CC)CC | C6H15N
product | 2-{5-dimethylcarbamoyl-2-fluoro-4-[(4′-trifluoromethylbiphenyl-2-carbonyl)amino]phenoxycarbonyloxymethyl}-2-phenylmalonic acid diethyl ester | 88 mg | C(C)OC(C(C(=O)OCC)(C1=CC=CC=C1)COC(=O)OC1=C(C=C(C(=C1)C(N(C)C)=O)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F)F)=O | C38H34F4N2O9
